US05567783
Synthesis of 1-tert-butyloxy-2,3-di-(2-methoxy ethoxy)propane (23).
Compound 21 (31.0 g, 0.135 mol.) was added to a slurry of the di-sodium salt of 3-tert-butoxy-1,2-propane diol, (0.062 mol.), 17, in refluxing in dry THF (500 ml). The reaction mixture was stirred, heated and maintained at reflux under an atmosphere of dry nitrogen for 24 hours. The mixture was allowed to cool and filtered and the solvent was removed by evaporation under vacuum. The residue was extracted with chloroform, dried (MgSO4) filtered and solvent removed by vacuum rotary evaporation to yield a brown liquid (17.0 g). The crude product was washed with water (250 ml) and extracted with chloroform (300 ml). The organic fraction was separated from the aqueous and dried (MgSO4) filtered. The solvent was removed by rotary evaporation under vacuum to give a pale yellow oil (15.0 g, 94%). The crude product was distilled (bpt. 120°-125° C., 0.25 torr) to give a colorless oily liquid (11.1 g, 67%): IR 2975, 2875 (CH) cm-1, 1198 (COC) cm-1, 1108 (COC) cm-1, 1H-NMR (CDCl3), d (ppm) 3.3-3.85 (m, 19H), 1.3 (s, 9H, tert-butyl), 13C-NMR (CDCl3), d, (ppm) 78.95, 72.94, 72.21, 71.92, 71.74, 70.64, 69.69, 61.73, 58.98, 58.8, 27.43. Mass spectroscopy, m/e: 264 M+ ; 208 (M-C(CH3)3)+ base peak.

reactant | 3-tert-butoxy-1,2-propane diol | 0.062 mol | C(C)(C)(C)OCC(CO)O | C7H16O3
reactant | THF | 500 ml | C1CCOC1 | C4H8O
product | 1-tert-butyloxy-2,3-di-(2-methoxy ethoxy)propane | 17.0 g | C(C)(C)(C)OCC(COCCOC)OCCOC | C13H28O5
